US04226775
A 0.01 mole sample of 3-benzoyl-2-(phenyl)propionic acid is dissolved in tetrahydrofuran and 0.01 mole of N,N-carbonyldiimidazole added. After stirring 3 hours at room temperature, 0.01 mole of L-proline t-butyl ester is added. After 24 hours the solvent is removed and 1-[3-benzoyl-2-(phenyl)-propionyl]-L-proline t-butyl ester isolated. The preceding compound is reacted with trifluoroacetic acid to remove the t-butyl group. Separation of isomers A and B is carried out as described for Example 69. Reaction of the isomers with bromine is acetic acid and reaction of the 1-[3-bromo-3-benzoyl-2-(phenyl)propionyl]-L-proline isomers with sodium thioacetate in acetonitrile as for Example 69 gives the products of the example. The product from isomer A is separated by chromatography to give [S-(R*,R*)] and [S-(R*,S*)]-1-[3-acetylthio-3-benzoyl-2-(phenyl)propionyl]-L-proline.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-[3-bromo-3-benzoyl-2-(phenyl)propionyl]-L-proline | BrC(C(C(=O)N1[C@H](C(=O)O)CCC1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C21H20BrNO4
reactant | sodium thioacetate | C(C)(=S)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[3-acetylthio-3-benzoyl-2-(phenyl)propionyl]-L-proline | C(C)(=O)SC(C(C(=O)N1[C@H](C(=O)O)CCC1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C23H23NO5S
